US03950353
N-(2-Dimethylaminoethyl)-N'-[2-(2-thiazolylmethylamino)ethyl]thiourea
Treating N-(2-thiazolylmethyl)ethylenediamine with 2-dimethylaminoethyl isothiocyanate by the procedure of Example 40, then concentrating and separating by column chromatography gives the title compound.

reactant | N-(2-thiazolylmethyl)ethylenediamine | S1C(=NC=C1)CNCCN | C6H11N3S
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-(2-thiazolylmethylamino)ethyl]thiourea | CN(CCNC(=S)NCCNCC=1SC=CN1)C | C11H21N5S2
